US04939165
A stirred solution of 2.2 grams (0.055 mole) of sodium hydroxide in 20 ml of ethanol was cooled to 0° C. and a mixture of 4.0 grams (0.03 mole) of 2-acetyl-5-methylthiophene and 3.1 grams (0.03 mole) of benzaldehyde in 5 ml of ethanol was added dropwise. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it stirred for 16 hours. The reaction mixture was poured into aqueous 1N hydrochloric acid and extracted with methylene chloride. The extract was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield 4.6 grams of 1-(5-methyl-2-thienyl)-3-phenyl-2-propen-1-one as a solid.

reactant | sodium hydroxide | 0.055 mole, 2.2 grams | [OH-].[Na+]
reactant | 2-acetyl-5-methylthiophene | 0.03 mole, 4.0 grams | C(C)(=O)C=1SC(=CC1)C | C7H8OS
reactant | benzaldehyde | 0.03 mole, 3.1 grams | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(5-methyl-2-thienyl)-3-phenyl-2-propen-1-one | 4.6 grams | CC1=CC=C(S1)C(C=CC1=CC=CC=C1)=O | C14H12OS
